US07592373B2
4.281.f. 3-(3-bromobiphenyl-4-yl)propynoic acid-{3-chloro-4-[2-(4-methylpiperidin-1-yl)ethyl]phenyl}amide
Prepared analogously to Example 2.3.f. from (3-bromobiphenyl-4-yl)propynoic acid and 3-chloro-4-[2-(4-methylpiperidin-1-yl)ethyl]phenylamine. Yield: 0.24 g (50% of theory); C29H28BrClN2O (M=535.90); calc.: molecular ion peak (M+H)+: 535/37/39; found: molecular ion peak (M+H)+: 535/37/39; Rf value: 0.48 (silica gel, dichloromethane/methanol (90:10)).

reactant | (3-bromobiphenyl-4-yl)propynoic acid | BrC=1C=C(C=CC1C#CC(=O)O)C1=CC=CC=C1 | C15H9BrO2
reactant | 3-chloro-4-[2-(4-methylpiperidin-1-yl)ethyl]phenylamine | ClC=1C=C(C=CC1CCN1CCC(CC1)C)N | C14H21ClN2
solvent | dichloromethane methanol | ClCCl.CO
product | 3-(3-bromobiphenyl-4-yl)propynoic acid-{3-chloro-4-[2-(4-methylpiperidin-1-yl)ethyl]phenyl}amide | ClC=1C=C(C=CC1CCN1CCC(CC1)C)NC(C#CC1=C(C=C(C=C1)C1=CC=CC=C1)Br)=O | C29H28BrClN2O
